US04814329
4.11 g (25 mmoles) of 5-methyl-benzimidazoline-2-thione, 4.32 g (30 mmoles) of 2-(dimethylamino)-ethylchloride hydrochloride and 2.55 g of sodium hydrogencarbonate are refluxed in 50 ml of ethanol for 6 hours. The reaction mixture is filtered off, concentrated and the residue is worked up according to the method of Example 2. The dichloromethane extracts are concentrated and the residue is crystallized from petrolether. 3.81 g of 2-(2-dimethylamino-ethylthio)-5-methyl-benzimidazole are obtained, which melting point does not change after recrystallizaton from acetonitrile. M.p.: 103° C.

reactant | 5-methyl-benzimidazoline-2-thione | 25 mmoles, 4.11 g | CC1=CC2=C(NC(N2)=S)C=C1 | C8H8N2S
reactant | 2-(dimethylamino)-ethylchloride hydrochloride | 30 mmoles, 4.32 g | Cl.CN(CCCl)C
reactant | sodium hydrogencarbonate | 2.55 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-dimethylamino-ethylthio)-5-methyl-benzimidazole | 3.81 g | CN(CCSC=1NC2=C(N1)C=CC(=C2)C)C | C12H17N3S
